US03931209
Preparation of 2-Methyl-4-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)semicarbazide
A solution of methylhydrazine (6.5 grams) in methylene chloride (100 ml) was charged into a glass reaction vessel equipped with a mechanical stirrer, thermometer and reflux condenser. 5-Trifluoromethyl-1,3,4-thiadiazol-2-yl isocyanate dimer (25 grams) was then added, with stirring at a temperature of from 20° to 25°C. Additional methylhydrazine (3.0 grams) was then added and the reaction mixture was heated at reflux for a period of about 4 hours. After this time the reaction mixture was stripped of solvent and excess hydrazine to yield the desired product 2-methyl-4-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)semicarbazide as a residual oil.

reactant | methylhydrazine | 6.5 grams | CNN | CH6N2
reactant | 5-Trifluoromethyl-1,3,4-thiadiazol-2-yl isocyanate dimer | 25 grams | C(=NC1=NN=C(S1)C(F)(F)F)=O.C(=NC1=NN=C(S1)C(F)(F)F)=O | 2C4F3N3OS
reactant | methylhydrazine | 3.0 grams | CNN | CH6N2
reactant | hydrazine | NN | H4N2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-methyl-4-(5-trifluoromethyl-1,3,4-thiadiazol-2-yl)semicarbazide | CN(N)C(=O)NC=1SC(=NN1)C(F)(F)F | C5H6F3N5OS
